US07728025B2
(Step 6) Production of 1-(2-(6-(4-fluoro-phenoxy)-2-pyridin-2-yl-3H-benzimidazol-5-yl)-piperidin-1-yl)-ethanone
50 mg of developed Raney nickel catalyst was added to an ethanol (10 ml) solution of 180 mg of 1-(2-(5-amino-2-(4-fluoro-phenoxy)-4-nitro-phenyl)-piperidin-1-yl)-ethanone, and the reaction liquid was stirred overnight in a hydrogen atmosphere. The catalyst was removed through filtration through Celite, and the filtrate was distilled under reduced pressure to obtain 171 mg of a crude product. 50 mg of the resulting crude product was dissolved in 1 ml of N-methylpyrrolidone, and 16 mg of pyridine-2-carboxaldehyde was added to it, and the reaction liquid was stirred at room temperature for 3 days. Water was added to the reaction liquid, and extracted with ethyl acetate, and the organic layer was washed with water and saturated saline, and dried with anhydrous sodium sulfate. The solvent was evaporated away under reduced pressure, and the reaction mixture was purified through reversed-phase middle-pressure liquid chromatography [ODS-AS-360-CC (by YMC), mobile phase: water-acetonitrile-0.1% trifluoroacetic acid] to obtain the entitled compound as a pale yellow solid.

reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | 1-(2-(5-amino-2-(4-fluoro-phenoxy)-4-nitro-phenyl)-piperidin-1-yl)-ethanone | 180 mg | NC=1C(=CC(=C(C1)C1N(CCCC1)C(C)=O)OC1=CC=C(C=C1)F)[N+](=O)[O-] | C19H20FN3O4
reactant | hydrogen | [H][H] | H2
reactant | pyridine-2-carboxaldehyde | 16 mg | N1=C(C=CC=C1)C=O | C6H5NO
catalyst | Raney nickel | 50 mg | [Ni] | Ni
solvent | N-methylpyrrolidone | 1 ml | CN1C(CCC1)=O | C5H9NO
solvent | Water | O | H2O
product | 1-(2-(6-(4-fluoro-phenoxy)-2-pyridin-2-yl-3H-benzimidazol-5-yl)-piperidin-1-yl)-ethanone | FC1=CC=C(OC=2C(=CC3=C(N=C(N3)C3=NC=CC=C3)C2)C2N(CCCC2)C(C)=O)C=C1 | C25H23FN4O2
